US05013477
3 g of p-fluorobenzyl-triphenylphosphonium bromide (preparable from p-fluorobenzyl bromide and triphenylphosphine) are suspended in 50 ml of tert.butyl methyl ether. The suspension is treated at room temperature with 0.75 g of potassium tert.butylate and stirred for 1.5 hours. Subsequently, the mixture is treated dropwise at 0° C. within 5 minutes with a solution of 1.40 g of trans-4-[trans-4-[2-(1,3-dioxolan-2-yl)ethyl]cyclohexyl]cyclohexanecarboxaldehyde in 25 ml of tert.butyl methyl ether and stirred at room temperature for a further 24 hours. Thereafter, the reaction mixture is taken up diethyl ether, washed several times with water, dried over magnesium sulfate, filtered and concentrated. Chromatographic purification of the resulting crude product on silica gel with ethyl acetate/petroleum ether (vol. 3:97) gives β-[trans-4-[trans-4-(2-(1,3-dioxolan-2-yl)ethyl)cyclohexyl]cyclohexyl]-4-fluorostyrene.

reactant | p-fluorobenzyl-triphenylphosphonium bromide | 3 g | [Br-].FC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | trans-4-[trans-4-[2-(1,3-dioxolan-2-yl)ethyl]cyclohexyl]cyclohexanecarboxaldehyde | 1.40 g | O1C(OCC1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=O | C18H30O3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tert.butyl methyl ether | 50 ml | COC(C)(C)C | C5H12O
solvent | tert.butyl methyl ether | 25 ml | COC(C)(C)C | C5H12O
product | β-[trans-4-[trans-4-(2-(1,3-dioxolan-2-yl)ethyl)cyclohexyl]cyclohexyl]-4-fluorostyrene | O1C(OCC1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=CC1=CC=C(C=C1)F | C25H35FO2
